US08232312B2
6-nitro-1H-indole-3-carboxylic acid
3.7 g 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone are combined with 20 ml of a 40% sodium hydroxide solution solution and refluxed for 4 hours. After cooling to 0° C. the mixture is diluted with a little water and adjusted to pH 1 by the careful addition of concentrated hydrochloric acid. The precipitated solid is suction filtered and dissolved in dichloromethane/methanol 10:1. After drying with magnesium sulphate the solvents are eliminated in vacuo and the residue is extracted from diethyl ether.

reactant | 2,2,2-trifluoro-1-(6-nitro-1H-indol-3-yl)-ethanone | 3.7 g | FC(C(=O)C1=CNC2=CC(=CC=C12)[N+](=O)[O-])(F)F | C10H5F3N2O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 6-nitro-1H-indole-3-carboxylic acid | [N+](=O)([O-])C1=CC=C2C(=CNC2=C1)C(=O)O | C9H6N2O4
